US09399647B2
A solution of 3-(4-hydroxy-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl)-propionic acid methyl ester (2 g, 0.0068 mol) in POCl3 (10 ml) was refluxed for 2 hrs. After consumption of starting material, excess of POCl3 was distilled off. The reaction mixture was quenched with ice and extracted with ethyl acetate (3×25 ml). The combined organic layers were dried over Na2SO4, concentrated and purified by chromatography on 60-120 silica using ethyl acetate (30%) in hexane as eluant to give 1 g (47%) of 3-(4-chloro-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl)-propionic acid methyl ester. 1H NMR (400 MHz, DMSO) δ ppm=1.83 (m, 4H), 2.8 (m, 4H), 2.98 (m, 2H), 3.2 (t, 2H), 3.57 (s, 3H). LC-MS: [M+H]=311.1.

reactant | 3-(4-hydroxy-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl)-propionic acid methyl ester | 0.0068 mol, 2 g | COC(CCC=1N=C(C2=C(N1)SC1=C2CCCC1)O)=O | C14H16N2O3S
reactant | POCl3 | 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 3-(4-chloro-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl)-propionic acid methyl ester | 1 g, 47% | COC(CCC=1N=C(C2=C(N1)SC1=C2CCCC1)Cl)=O | C14H15ClN2O2S
